US07091214B2
A solution of N1-(3-nitro-7-phenylquinolin-4-yl)-2-methylpropane-1,2-diamine (3.56 g, 10.6 mmol) in dichloromethane (100 mL) was cooled to 0° C. Cyclohexyl isocyanate (3.00 mL, 23.5 mmol) was added over the course of a day, and the reaction was stirred at ambient temperature for three days. The solvent was removed under reduced pressure. Xylenes (3 cx 100 mL) were added and removed under reduced pressure to provide N-cyclohexyl-N′-[1,1-dimethyl-2-(3-nitro-7-phenylquinolin-4-ylamino)ethyl]urea as a yellow solid.

reactant | N1-(3-nitro-7-phenylquinolin-4-yl)-2-methylpropane-1,2-diamine | 10.6 mmol, 3.56 g | [N+](=O)([O-])C=1C=NC2=CC(=CC=C2C1NCC(C)(N)C)C1=CC=CC=C1 | C19H20N4O2
reactant | Cyclohexyl isocyanate | 23.5 mmol, 3.00 mL | C1(CCCCC1)N=C=O | C7H11NO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-cyclohexyl-N′-[1,1-dimethyl-2-(3-nitro-7-phenylquinolin-4-ylamino)ethyl]urea | C1(CCCCC1)NC(=O)NC(CNC1=C(C=NC2=CC(=CC=C12)C1=CC=CC=C1)[N+](=O)[O-])(C)C | C26H31N5O3
